US05154930
Aspirin Solution Preparation
Desalted egg phosphatides (Hepar) were dissolved in ethanol at a concentration of 250 mg/ml in a 1000 ml flask. To 400 mg of salicylic acid acetate, 1.6 ml of the above solution containing 400 mg of phosphatides was added and the solution adjusted with absolute ethanol to 4 ml. The final concentration of both ingredients in this pharmacological agent-lipid solution was 100 mg/ml. This procedure was performed at about 22.5° C.+/- about 2.5° C. and atmospheric pressure.

reactant | salicylic acid acetate | 400 mg | C(C)(=O)O.C(C=1C(O)=CC=CC1)(=O)O
solvent | ethanol | C(C)O | C2H6O
product | Aspirin | CC(=O)OC=1C=CC=CC1C(=O)O | C9H8O4
